* How much does R_ptat actually need to move?
* I_ptat = dV_BE / R_ptat, so the trim range must cover the SPREAD of
* R_ptat (poly resistors run +-20-30% over process) plus whatever dV_BE
* contributes.  The step must be fine enough that the residual error is
* below what the two-point readout calibration cannot absorb.
* This sweeps R_ptat and reports the resulting core current.
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.param rp=30k
.subckt core vdd VSUB pbias rp=30k
XMPP1 nb  pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8
XMPP2 pbias pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8
XQP1 nb nb VSUB VSUB sky130_fd_pr__npn_05v5_W1p00L1p00
XQP2 pbias nb ne2 VSUB sky130_fd_pr__npn_05v5_W1p00L2p00
RPTAT ne2 VSUB 'rp'
XSL1 nsl1 nsl1 pbias vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
XSL2 nsl2 nsl2 nsl1 vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
XSL3 nsl3 nsl3 nsl2 vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
XSL4 nd12 nd12 nsl3 vdd sky130_fd_pr__pfet_g5v0d10v5 W=4 L=8
RD1 vdd nd12 210k
.ends
VDD vdd 0 3.3
VSS VSUB 0 0
XC vdd VSUB pbias core rp='rp'
* monitor leg: a W/L=2 copy off pbias, one "unit" of the bias tree
XMON nmon pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8
VM nmon 0 1.0
.control
set filetype=ascii
echo > rptat_sens.txt
foreach r 21k 24k 27k 30k 33k 36k 39k
  alterparam rp = $r
  reset
  op
  echo $r $&i(VM) >> rptat_sens.txt
end
echo SENS_DONE
.endc
.end
